US08895733B2
N-Phenyl-6-(pyridin-2-yl-[1,2,4]oxadiazol-3-yl)-[1,3,5]triazine-2,4-diamine (Method 2)
A mixture of picolinic acid (90 mg, 0.73 mmol) and carbonyl di-imidazole (0.12 g, 0.73 mmol) in pyridine (1 ml) was stirred for 2 h. N-Phenyl-6-(5-thiazol-2-yl-[1,2,4]oxadiazol-3-yl)-[1,3,5]triazine-2,4-diamine (prepared in an analogous manner to Intermediate 4, 100 mg, 0.41 mmol) was added and the resulting mixture was heated to 100 C and stirred for 24 h. In a separate vessel, a second mixture of picolinic acid (90 mg, 0.73 mmol) and carbonyl di-imidazole (0.12 g, 0.73 mmol) in pyridine (1 ml) was stirred for 90 minutes and added to the first mixture, which was stirred for a further 24 h at 100 C. The mixture was cooled to room temperature, concentrated under vacuum and suspended in aqueous sodium hydrogencarbonate solution. The solid was filtered off, washed with water, ethyl acetate and methanol and dried under vacuum to give the title compound (73 mg, 54%).

reactant | picolinic acid | 0.73 mmol, 90 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | carbonyl di-imidazole | 0.73 mmol, 0.12 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | N-Phenyl-6-(5-thiazol-2-yl-[1,2,4]oxadiazol-3-yl)-[1,3,5]triazine-2,4-diamine | C1(=CC=CC=C1)NC1=NC(=NC(=N1)N)C1=NOC(=N1)C=1SC=CN1 | C14H10N8OS
reactant | picolinic acid | 0.73 mmol, 90 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | carbonyl di-imidazole | 0.73 mmol, 0.12 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | N-Phenyl-6-(pyridin-2-yl-[1,2,4]oxadiazol-3-yl)-[1,3,5]triazine-2,4-diamine | 73 mg, 54% | C1(=CC=CC=C1)NC1=NC(=NC(=N1)N)C1=NOC(=N1)C1=NC=CC=C1 | C16H12N8O
